US08754114B2
N-(2,2,2-trifluoroethyl)-N′-[3-(7-{1-[1-(3,3,3-trifluoro-2-hydroxypropanoyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 41 starting from N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea and 3,3,3-trifluoro-2-hydroxypropanoic acid (Lancaster, Cat. No. L07742). LCMS (M+H)+: m/z=611.2.

reactant | N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H23F3N8O
reactant | 3,3,3-trifluoro-2-hydroxypropanoic acid | FC(C(C(=O)O)O)(F)F | C3H3F3O3
product | N-(2,2,2-trifluoroethyl)-N′-[3-(7-{1-[1-(3,3,3-trifluoro-2-hydroxypropanoyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]urea | FC(CNC(=O)NC1=CC(=CC=C1)C1=CN=C2N1N=CC(=C2)C=2C=NN(C2)C2CCN(CC2)C(C(C(F)(F)F)O)=O)(F)F | C26H24F6N8O3
